US05026858
A mixture of N-(1-benzylpiperid-4-yl)-2-methoxy-4-acetamido-5-nitrobenzamide (4.26 g; 0.01 mol) [prepared by the procedure described in Example 1], concentrated hydrochloric acid (5 ml), methanol (40 ml) and water (40 ml) was boiled under reflux for 2 hours. The solvent was removed in vacuo and the solid recrystallized from ethanol to give 3.4 g of N-(1-benzylpiperid-4-yl)-2-methoxy-4-amino-5-nitrobenzamide hydrochloride, m.p. 218°-220° C. (dec).

reactant | N-(1-benzylpiperid-4-yl)-2-methoxy-4-acetamido-5-nitrobenzamide | 0.01 mol, 4.26 g | C(C1=CC=CC=C1)N1CCC(CC1)NC(C1=C(C=C(C(=C1)[N+](=O)[O-])NC(C)=O)OC)=O | C22H26N4O5
reactant | hydrochloric acid | 5 ml | Cl | ClH
reactant | methanol | 40 ml | CO | CH4O
solvent | water | 40 ml | O | H2O
product | N-(1-benzylpiperid-4-yl)-2-methoxy-4-amino-5-nitrobenzamide hydrochloride | 3.4 g | Cl.C(C1=CC=CC=C1)N1CCC(CC1)NC(C1=C(C=C(C(=C1)[N+](=O)[O-])N)OC)=O | InChI=1S/C20H24N4O4.ClH/c1-28-19-12-17(21)18(24(26)27)11-16(19)20(25)22-15-7-9-23(10-8-15)13-14-5-3-2-4-6-14;/h2-6,11-12,15H,7-10,13,21H2,1H3,(H,22,25);1H
